US04472405
A solid which was chiefly 1,2-dihydro-6-fluoro-5-hydroxymethylquinaldine (7.0 g) was dissolved in 200 ml of ethanol containing 1 ml of concentrated hydrochloric acid, 1.0 g of 5% palladium on charcoal, and 1.0 g 5% platinum on charcoal and the mixture was hydrogenated at 50 psi at 20° C. for 5 hours. The solution was filtered and the filtrate was evaporated to provide white solid 6-fluoro-5-hydroxymethyl-1,2,3,4-tetrahydroquinaldine as determined by nuclear magnetic resonance spectral analysis.

reactant | 1,2-dihydro-6-fluoro-5-hydroxymethylquinaldine | 7.0 g | FC=1C(=C2C=CC(NC2=CC1)C)CO | C11H12FNO
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
catalyst | platinum on charcoal | 1.0 g | [Pt] | Pt
product | 6-fluoro-5-hydroxymethyl-1,2,3,4-tetrahydroquinaldine | FC=1C(=C2CCC(NC2=CC1)C)CO | C11H14FNO
